US04256640
To a solution of 4-formyl-9-phenyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (1.4 g) in absolute benzene (20 ml) is added a 30% solution (1.5 ml) of methylamine in methanol. The mixture is stirred at room temperature for 3 hours and evaporated to give 4-methyliminomethyl-9-phenyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole as orange solid. The product is dissolved in a mixture of methanol (20 ml) and tetrahydrofuran (20 ml) and sodium borohydride (274 mg) is added thereto. The mixture is stirred at room temperature for 1 hour and evaporated.

reactant | 4-formyl-9-phenyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 1.4 g | C(=O)C1CCSC=2N(C3=CC=CC=C3C21)C2=CC=CC=C2 | C18H15NOS
reactant | methylamine | CN | CH5N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | 4-methyliminomethyl-9-phenyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | CN=CC1CCSC=2N(C3=CC=CC=C3C21)C2=CC=CC=C2 | C19H18N2S
